US08440666B2
2-[1-(Pyridazin-4-yl)propyl]isoindoline-1,3-dione
2-[1-(3,6-Dichloropyridazin-4-yl)propyl]isoindoline-1,3-dione, triethylamine (1.11 mL, 8 mmol) and 10% palladium-carbon (50 wt %, 100 mg) were stirred in tetrahydrofuran in a hydrogen atmosphere (1 atm) at room temperature for 4 days. The reaction solution was filtered through celite and concentrated under reduced pressure, and the resulting residue was dissolved in chloroform, and the resulting organic layer was washed with water and saturated aqueous sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/3) to give the desired product (294 mg, 28% yield, two steps).

reactant | 2-[1-(3,6-Dichloropyridazin-4-yl)propyl]isoindoline-1,3-dione | ClC=1N=NC(=CC1C(CC)N1C(C2=CC=CC=C2C1=O)=O)Cl | C15H11Cl2N3O2
reactant | triethylamine | 8 mmol, 1.11 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 2-[1-(Pyridazin-4-yl)propyl]isoindoline-1,3-dione | 294 mg, 28% yield | N1=NC=C(C=C1)C(CC)N1C(C2=CC=CC=C2C1=O)=O | C15H13N3O2
